US06878715B1
To a solution of (S)-1-(5-acetoxyhexyl)-7-benzyl-8-chloromethyl-3-methylxanthine (8.7 g, 19.5 mmol) was added a solution of hydrogen chloride in ether (1.0 M, 20 ml). After stirring at room temperature for 24 hours, the solvent was evaporated under reduced pressure to give (S)-1-(5-hydroxyhexyl)-7-benzyl-8-chloromethyl-3-methylxanthine (7.0 g, 89% yield) as a white solid.

reactant | (S)-1-(5-acetoxyhexyl)-7-benzyl-8-chloromethyl-3-methylxanthine | 19.5 mmol, 8.7 g | C(C)(=O)O[C@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)CC1=CC=CC=C1)CCl)C)C | C22H27ClN4O4
reactant | hydrogen chloride | Cl | ClH
solvent | ether | 1.0 M, 20 ml | CCOCC | C4H10O
product | (S)-1-(5-hydroxyhexyl)-7-benzyl-8-chloromethyl-3-methylxanthine | 7.0 g, 89% yield | O[C@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)CC1=CC=CC=C1)CCl)C)C | C20H25ClN4O3
